US07217492B2
33.5 g of cyclohexanethiol, 37.4 g of sodium ethoxide, and 70 g of 1-iodonaphthalene was dissolved in 1 l of ethanol in a reaction flask, in which the atmosphere was replaced with nitrogen. 3.2 g of tetrakis(triphenylphosphonium)palladium was added. The mixture was stirred for 11 hours at 90° C. Ethanol was condensed under reduced pressure and 1 l of methyl isobutylketone and 1 l of distilled water were added. The mixture was transferred to a separatory funnel, shaken, and allowed to stand still. The water layer was removed. 1 l of distilled water was added and the mixture was shaken again and allowed to stand still. The water layer was removed. The resulting solution was dried with anhydrous magnesium sulfate and filtered. After further drying using an evaporator, methyl isobutylketone was evaporated from the dried solution. The residual liquid was dried under reduced pressure and was purified by a silica gel column using n-hexane as a developing solvent. The n-hexane was evaporated under reduced pressure to obtain 46 g of 1-cyclohexylthionaphthalene.

reactant | cyclohexanethiol | 33.5 g | C1(CCCCC1)S | C6H12S
reactant | sodium ethoxide | 37.4 g | [O-]CC.[Na+]
reactant | 1-iodonaphthalene | 70 g | IC1=CC=CC2=CC=CC=C12 | C10H7I
reactant | methyl isobutylketone | 1 l | CC(=O)CC(C)C | C6H12O
solvent | ethanol | 1 l | C(C)O | C2H6O
solvent | water | 1 l | O | H2O
product | 1-cyclohexylthionaphthalene | 46 g | C1(CCCCC1)SC1=CC=CC2=CC=CC=C12 | C16H18S
